US07772246B2
Preparation of Di-tert-butyl[3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazin-2-yl]imidodicarbonate (B-79-3)
A mixture of the bis(pinacolato)diboron (1.12 g, 4.4 mmol), di-tert-butyl (5-bromo-3-methoxypyrazin-2-yl)imidodicarbonate B-79-2 (1.62 g, 4 mmol) and potassium acetate (1.2 g, 12 mmol) in toluene (40 mL) was deoxygenated with a nitrogen bubbler for a few minutes before the addition of 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (78 mg, 0.096 mmol). The mixture was then heated in a 50 degree oil bath for 4 days. LCMS indicated that the reaction was complete. The mixture was filtered and the filtrate reduced to minimum volume. The residue B-79-3 was carried straight into the next step without purification, assuming a quantitative yield.

reactant | bis(pinacolato)diboron | 4.4 mmol, 1.12 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | di-tert-butyl (5-bromo-3-methoxypyrazin-2-yl)imidodicarbonate | BrC=1N=C(C(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC | C15H22BrN3O5
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Di-tert-butyl[3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazin-2-yl]imidodicarbonate | quantitative yield | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(N=C1OC)B1OC(C(O1)(C)C)(C)C | C21H34BN3O7
